US04397790
A mixture of 34 g. (0.2 mol) of 2-methyl-3-chlorobenzoic acid and 50 mL. of commercially available triethylorthoformate was refluxed for 6 hours, upon which bulb-to-bulb distillation gave 35.5 g. (89% yield) of ethyl-3-chloro-2-methylbenzoate as a clear liquid having a boiling point of 80° C. at a pressure of 0.1 mmHg.

reactant | 2-methyl-3-chlorobenzoic acid | 0.2 mol | CC1=C(C(=O)O)C=CC=C1Cl | C8H7ClO2
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
product | ethyl-3-chloro-2-methylbenzoate | 89% yield | C(C)OC(C1=C(C(=CC=C1)Cl)C)=O | C10H11ClO2
